US06303610B1
Preparation of 2-t-butoxycarbonylamino-3-(1H-indol-3-yl)-N-(2-methoxybenzyl)propanamide
To a solution of N-(t-butoxycarbonyl)tryptophan (46.4 g, 152.6 mmoles) in 500 ml of dioxane was added carbonyl diumidazole (25.4 g, 156 mmoles) in a portionwise manner. The resulting mixture was stirred for about 2.5 hours at room temperature and then stirred at 450° C. for 30 minutes. Next, 2-methoxybenzylamine (20.7 ml, 158.7 mmoles) was added and the reaction mixture was then stirred for 16 hours at room temperature.

reactant | N-(t-butoxycarbonyl)tryptophan | 152.6 mmoles, 46.4 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
reactant | 2-methoxybenzylamine | 158.7 mmoles, 20.7 ml | COC1=C(CN)C=CC=C1 | C8H11NO
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 2-t-butoxycarbonylamino-3-(1H-indol-3-yl)-N-(2-methoxybenzyl)propanamide | C(C)(C)(C)OC(=O)NC(C(=O)NCC1=C(C=CC=C1)OC)CC1=CNC2=CC=CC=C12 | C24H29N3O4
